Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / aspirin
 
Attending: ___.
 
Chief Complaint:
Cat bite, redness, swelling
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
 Mr. ___ is a ___ year-old gentleman with a history of HTN and 
CKD who is transferred from ___ due to a deep 
soft-tissue infection following a cat bite.  
 Two days prior to admission to ___ Mr. ___ while 
trying to separate his cat who was fighting another cat got 
bitten by a cat in his right hand. That day he placed some 
antibiotic ointment at the sites of puncture. The next day he 
woke up with swelling, redness and pain as it continued 
progressing proximally he went to his PCP the next day who 
demarcated the area and referred him to the ___. 
There he was started on ampicillin-sulbactam, ibuprofen and 
acetaminophen and admitted to medicine. Over the first 24h some 
improvement of in the area and degree of erythema and swelling 
were observed. Nonetheless on two days prior to transfer the 
dorsum of the patient's hand became more swollen with purulent 
drainage coming from the puncture site and cellulitis extending 
proximally to the patients arm. Hand surgery was consulted in 
___ and performed a bedside debridement that day with 
improvement in pain and leukocytosis. His antibiotics were 
broadened to vancomycin/piperacillin-tazobactam. A transfer was 
requested that day and due to bed availability the patient was 
transferred overnight.  
 On the floor, he denies any pain in his right hand or arm. He 
denies numbness or difficulty flexing digits. No chills. 
 
Past Medical History:
Hypertension
Chronic kidney disease (baseline Creatinine 1.4)
Horseshow kidney
Developmental hip dysplagia-surgery done

 
Social History:
___
Family History:
noncontributary
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
 Vital Signs: 98.5 | 146/84 | 73 | 18 | 98%RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema.  
 Right hand wrapped with dry dressing and ace-wraps elevated 
over a pillow. Faint erythema beyond marking up to around distal 
third of arm. No crepitus or induration. Normal capillary refill 
in all digits with normal sensation.  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  
 
DISCHARGE PHYSICAL EXAM:
========================
Vital Signs: T 98.8, BP 138-152/69-72, HR 57-62, RR 16, SpO2 
100/RA 
General: Alert, oriented, no acute distress  
HEENT: R eye - medial subconjunctival hemorrhage. Sclera 
anicteric. MMM. 
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, protuberant, bowel 
sounds present, no rebound tenderness or guarding
Ext: LUE and b/l ___ - Warm, well perfused, 2+ pulses, no edema. 
RUE - hand is erythematous and edematous to above wrist - far 
inside the drawn-on perimeter. 2 large, draining gouge wounds on 
dorsal surface of hand. Wounds are clean with pink granulation 
tissue. 
Skin: No lesions or rashes, except as described above 
Neuro:  strength in R hand ___, sensation grossly intact
 
Pertinent Results:
ADMISSION LABS
==============
___ 04:05AM BLOOD Albumin-3.0* Calcium-8.4 Phos-4.2 Mg-2.1
___ 04:05AM BLOOD ALT-18 AST-13 LD(LDH)-156 AlkPhos-76 
TotBili-0.5
___ 04:05AM BLOOD Glucose-98 UreaN-20 Creat-1.4* Na-141 
K-3.9 Cl-107 HCO3-26 AnGap-12
___ 04:05AM BLOOD ___ PTT-25.5 ___
___ 04:05AM BLOOD Plt ___
___ 04:05AM BLOOD Neuts-68.4 Lymphs-17.6* Monos-9.9 Eos-3.3 
Baso-0.2 Im ___ AbsNeut-3.54 AbsLymp-0.91* AbsMono-0.51 
AbsEos-0.17 AbsBaso-0.01
___ 04:05AM BLOOD WBC-5.2 RBC-3.74* Hgb-10.9*# Hct-34.5* 
MCV-92 MCH-29.1 MCHC-31.6* RDW-15.2 RDWSD-50.6* Plt ___

PERTINENT LABS
==============
Skin Lesion/Superficial Culture  Final  ___: Rare 
Growth - PASTEURELLA MULTOCIDA

DISCHARGE LABS
==============
___ 04:35AM BLOOD Calcium-8.3* Phos-3.5 Mg-2.2
___ 04:35AM BLOOD Glucose-90 UreaN-22* Creat-1.2 Na-141 
K-4.4 Cl-106 HCO3-23 AnGap-16
___ 04:35AM BLOOD Plt ___
___ 04:35AM BLOOD WBC-5.5 RBC-3.91* Hgb-11.4* Hct-35.9* 
MCV-92 MCH-29.2 MCHC-31.8* RDW-15.1 RDWSD-50.1* Plt ___

IMAGING
=======
RIGHT HAND (PA, LAT, OBLIQUE) ___
There is a soft tissue defect along the dorsum of the hand 
adjacent to the 
fifth metacarpal. There is prominent soft tissue swelling. 
Underlying bone is intact without cortical erosion to indicate 
radiographic signs for acute osteomyelitis. There is normal bony 
mineralization. 
 
Brief Hospital Course:
Mr. ___ is a ___ year-old gentleman with a history of HTN and 
CKD who is transferred from ___ due to a soft-tissue 
infection following a cat bite. 

 # CELLULITIS SECONDARY TO CAT BITE: wound cultures grew 
pasteurella multocida. Source control believed to be achieved 
with packing and drainage of wound at ___. During 
admission, area of erythema around the wound receded within the 
bounds of outlined perimeter and edema decreased. Range of 
motion of hand overall improved. Received 2 doses vancomycin and 
2 doses of zosyn on admission to ___ transitioned to unasyn 
for 24 hours (received 4 doses), and eventually to augmentin on 
___. Per hand surgery, pt had elevation/splinting of right 
upper extremity, TID irrigation/soaks. MRSA nasal swab pending 
at discharge. 

 # HYPERTENSION: stable BP during admission. Continued on 
metoprolol XL 50mg daily, amlodipine 5mg daily, lisinopril 20mg 
daily.

 # CHRONIC KIDNEY DISEASE: baseline Creatinine around 1.4. Cr of 
1.3 on day of discharge.

 # ANEMIA: baseline Hgb ___. On admission to ___ on 
___ was 12.9/39.4; on admission to ___ on ___ was 
10.9/34.5. Began to trend up on ___ (11.4/35.9). Most likely 
due to injury but would repeat to ensure stability.

TRANSITIONAL ISSUES:
====================
# augmentin: day 1 - ___ (Received unasyn at ___ and 
2 doses vancomycin and 2 doses of zosyn on admission to ___ 
___ transitioned to unasyn for 24 hours (received 4 doses) 
before starting augmentin). Will complete 14 total days of 
antibiotics - last day ___.
# anemia: Would repeat CBC to ensure stability of hgb/hct
# CODE: Full 
# CONTACT: ___ (wife), phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Floranex (Lactobacillus acidoph-L.bulgar) 1 g oral Q12H 
5. Piperacillin-Tazobactam 4.5 g IV Q8H 
6. Vancomycin 1000 mg IV Q 12H 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg One tablet(s) by 
mouth Twice a day Disp #*17 Tablet Refills:*0 
2.  amLODIPine 5 mg PO DAILY  
3.  Floranex (Lactobacillus acidoph-L.bulgar) 1 g oral Q12H  
4.  Lisinopril 20 mg PO DAILY  
5.  Metoprolol Succinate XL 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
# pasteurella multocida soft tissue infection secondary to cat 
bite

SECONDARY DIAGNOSES:
# Hypertension
# Chronic kidney disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were admitted to ___ from 
___ to ___ for a cat bite and resulting infection in your 
hand.

WHILE YOU WERE IN THE HOSPITAL:
===============================
 - You were treated with antibiotics and are being discharged on 
Augmentin which is covers the infection caused by a cat bite.
 - We followed up the bacterial growth in your hand wound that 
was tested at ___, and confirmed that your are on the 
right antibiotics for your infection.
 - You were seen by our hand surgery team, who made a splint for 
you and encouraged soaking and bandaging of your hand. They did 
not feel that surgery was necessary.

WHAT WILL HAPPEN WHEN YOU LEAVE THE HOSPITAL:
=============================================
 - You will continue the Augmentin for 4 more days (last dose 
will be on ___.
 - You will see the hand surgery team in the office in roughly 
one week so they can follow your progress.

If you have any further questions regarding your care here, 
please do not hesitate to contact us. We wish you the best with 
your health going forward.

Your ___ Care Team
 
Followup Instructions:
___